US05958914
A mixture of acetic anhydride (2.7 ml) and formic acid (2.2 ml) was stirring for 30 minutes at 30° C. 2-(2-Amino-5-fluorothiazol-4-yl)-2-(Z)-(hydroxyimino) acetic acid (1.2 g) was added thereto with stirring under ice cooling, and the mixture was stirred for 3 hours at 25 to 35° C. The reaction mixture was poured into an isopropyl ether (50 ml). The resulting precipitate was collected by filtration, dried under reduced pressure to give 2-(5-fluoro-2-formylaminothiazol-4-yl)-2-(Z)-(formyloxyimino)acetic acid (0.65 g).

reactant | acetic anhydride | 2.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(2-Amino-5-fluorothiazol-4-yl)-2-(Z)-(hydroxyimino) acetic acid | 1.2 g | NC=1SC(=C(N1)/C(/C(=O)O)=N/O)F | C5H4FN3O3S
reactant | isopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | formic acid | 2.2 ml | C(=O)O | CH2O2
product | 2-(5-fluoro-2-formylaminothiazol-4-yl)-2-(Z)-(formyloxyimino)acetic acid | 0.65 g | FC1=C(N=C(S1)NC=O)/C(/C(=O)O)=N/OC=O | C7H4FN3O5S
